US06897224B2
1-(2-Ethylquinolin-5-ylamino)-4-(5-fluoro-2-hydroxyphenyl)-4-methyl-2-(trifluoromethyl)pentan-2-ol
230 mg (0.49 mmol) of 1-(2-ethylquinolin-5-ylimino)-4-(5-fluoro-2-methoxyphenyl)-4-methyl-2-(trifluoromethyl)pentan-2-ol in 4.5 ml of dichloromethane is mixed at 0° C. with 7.30 ml (7.30 mmol) of a 1 M boron tribromide solution. After 23 hours at room temperature, the reaction is brought to a halt by the addition of 30 ml of methanol. The reaction mixture is allowed to stir for one hour at room temperature, and then the solvent is removed in a vacuum. After chromatography on silica gel with ethyl acetate-methanol (0-10%), 60 mg (27% of theory) of the product is obtained.

reactant | 1-(2-ethylquinolin-5-ylimino)-4-(5-fluoro-2-methoxyphenyl)-4-methyl-2-(trifluoromethyl)pentan-2-ol | 0.49 mmol, 230 mg | C(C)C1=NC2=CC=CC(=C2C=C1)N=CC(CC(C)(C)C1=C(C=CC(=C1)F)OC)(O)C(F)(F)F | C25H26F4N2O2
reactant | boron tribromide | 1 M | B(Br)(Br)Br | BBr3
reactant | methanol | 30 ml | CO | CH4O
solvent | dichloromethane | 4.5 ml | ClCCl | CH2Cl2
product | 1-(2-Ethylquinolin-5-ylamino)-4-(5-fluoro-2-hydroxyphenyl)-4-methyl-2-(trifluoromethyl)pentan-2-ol | C(C)C1=NC2=CC=CC(=C2C=C1)NCC(CC(C)(C)C1=C(C=CC(=C1)F)O)(O)C(F)(F)F | C24H26F4N2O2
